US08058263B2
35.1. 3-methyl-piperazine-1-carboxylic acid ethyl ester
To a solution of 2-methylpiperazine (10.0 g) in MeOH (120 mL), H2O (40 mL) and AcOH was added at −5° C. dropwise during 25 min ethyl chloroformate (10 mL) and the reaction mixture was stirred overnight at RT. Then, H2O (100 mL) was added and the MeOH evaporated in vacuo. The aq. phase was diluted with toluene (70 mL), the layers were separated and the org. layer was washed with water (50 mL). The aq. phase was then basified with NaOH (2M, 80 mL) and extracted with toluene (100 mL). The combined org. phases were washed with brine (50 mL), dried over MgSO4 and evaporated in vacuo to give the desired compound (8.5 g).

reactant | 2-methylpiperazine | 10.0 g | CC1NCCNC1 | C5H12N2
reactant | ethyl chloroformate | 10 mL | ClC(=O)OCC | C3H5ClO2
solvent | MeOH | 120 mL | CO | CH4O
solvent | H2O | 40 mL | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
solvent | H2O | 100 mL | O | H2O
product | 3-methyl-piperazine-1-carboxylic acid ethyl ester | 8.5 g | C(C)OC(=O)N1CC(NCC1)C | C8H16N2O2
